US03975384
2,6-Di-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine
3.0 gm (9.3 millimols) of 6-chloro-2-methylthio-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine (m.p. 128°-131°C) were added at room temperature to a sodium ethylate solution prepared from 0.22 gm (9.4 millimols) of sodium and 30 ml of ethanol, and the mixture was refluxed for 2 hours. After standing for 20 hours at room temperature, the reaction mixture was poured into water, the aqueous mixture was extracted several times with chloroform/ethanol, the combined extract solutions were evaporated to dryness, and the residue was recrystallized from ethyl acetate/petroleum ether. Yield: 2 gm (65% of theory); m.p. 130°-132°C.

reactant | 6-chloro-2-methylthio-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine | 9.3 millimols, 3.0 gm | ClC1=C(C(=NC(=N1)SC)N1CCS(CC1)=O)[N+](=O)[O-] | C9H11ClN4O3S2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 9.4 millimols, 0.22 gm | [Na] | Na
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,6-Di-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine | C(C)OC1=NC(=C(C(=N1)N1CCS(CC1)=O)[N+](=O)[O-])OCC | C12H18N4O5S
